US07342118B2
(4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-imidazol-1-yl)-acetic acid methyl ester
(4-Amino-imidazol-1-yl)-acetic acid methyl ester was coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.5, 19.1, 33.8, 42.3, 50.3, 53.6, 54.5, 102.2, 102.5, 102.7, 109.9, 112.4, 112.6, 130.0, 131.4, 139.0, 161.9, 164.2, 166.5, 171.4; MS m/z 409.1 (M+1).

reactant | (4-Amino-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)N)=O | C6H9N3O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | (4-[2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoylamino]-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C19H22F2N4O4
